US07238716B2
A mixture of 2-(chloromethyl)-6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]pyridine (0.96 g), methyl 2-(3-hydroxyphenyl)acetate (0.50 g), anhydrous potassium carbonate (0.52 g) and N,N-dimethylformamide (15 mL) was stirred at 80° C. for 5 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give methyl 2-[3-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-2-pyridylmethoxy]phenyl]acetate as a colorless oil (1.17 g, 87%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v).

reactant | 2-(chloromethyl)-6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]pyridine | 0.96 g | ClCC1=NC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | methyl 2-(3-hydroxyphenyl)acetate | 0.50 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 0.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-[3-[5-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-2-pyridylmethoxy]phenyl]acetate | 1.17 g, 87% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=CC(=NC1)COC=1C=C(C=CC1)CC(=O)OC | C26H24N2O5
